US05462868
Cocaine esterase in extracts, column fractions and characterisation experiments (e.g. pH optimum, Michaelis constant determinations) was routinely assayed by shaking incubation (250 rpm, 30° C.) of 2 mM cocaine HCl (made up in 1 ml 50 mM MOPS buffer, pH 7.0) with a known quantity of sample (10-200 μl, 0-0.01 U) for a fixed length of time (10-30 min). The reaction was stopped by the addition of 10 μl of concentrated phosphoric acid and protein pelleted at 13,000 rpm in a minifuge. The amount of benzoic acid produced was determined by HPLC analysis of 50 μl of the supernatant and comparison to standard samples (0-1 mM) treated identically. Standard curves of peak height plotted against benzoic acid concentration were linear over the range 0-1 mM. Controls containing no enzyme solution were run to allow for background hydrolysis. An assay was considered invalid if no cocaine remained at the end of the assay (seen by HPLC). One unit of esterase activity is defined as the amount of enzyme required to produce 1 μmol of benzoic acid in 1 min at 30° C.

reactant | Cocaine | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C=3C=CC=CC3)C(=O)OC | C17H21NO4
reactant | cocaine HCl | 2 mM | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)OC(=O)C=3C=CC=CC3)C(=O)OC.Cl
reactant | phosphoric acid | 10 μl | P(O)(O)(O)=O | H3O4P
solvent | MOPS | 50 mM, 1 ml | C1COCCN1CCCS(=O)(=O)O | C7H15NO4S
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
